US07825253B2
Sodium hydride (55% in mineral oil, 1.76 g, 40.5 mmol) was suspended in 100 mL tetrahydrofurane. 3-(Hydroxymethyl)benzonitrile (5.0 g, 36.5 mmol), dissolved in 200 mL tetrahydrofuran was added dropwise. The reaction mixture was stirred at room temperature for 1 h. 2-Bromoethylmethylether (7.0 mL, 76 mmol) was added and the reaction mixture was refluxed overnight. The reaction mixture was quenched with 3 mL 2N sodium carbonate solution and the solvent was evaporated. The residue was taken up in 100 mL water and extracted three times with ethyl acetate (100 mL each). The organic phases ware pooled, dried with sodium sulfate, filtered and evaporated. The residue was purified by flash chromatography on silica gel (cyclohexane/ethyl acetate 100:0->50:50 gradient). 3-(2-Methoxy-ethoxymethyl)-benzonitrile was obtained as a yellow liquid (2.63 g, 38%).

reactant | Sodium hydride | 40.5 mmol, 1.76 g | [H-].[Na+]
reactant | 3-(Hydroxymethyl)benzonitrile | 36.5 mmol, 5.0 g | OCC=1C=C(C#N)C=CC1 | C8H7NO
reactant | 2-Bromoethylmethylether | 76 mmol, 7.0 mL | BrCCOC | C3H7BrO
solvent | tetrahydrofurane | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-(2-Methoxy-ethoxymethyl)-benzonitrile | COCCOCC=1C=C(C#N)C=CC1 | C11H13NO2
